US08242271B2
Step-1: To a solution of 4-aminobenzoic acid (5.0 g, 36.44 mmol) in 1,4-dioxan/10% aq. NaHCO3 soln (1:1, 20 mL) was added a cat. amount of TBAB (0.58 g, 1.82 mmol) and the reaction mixture was stirred at 0° C. To it was added BOC anhydride (11.91 g, 54.6 mmol) and the reaction was allowed to stir at rt for 22 h. The reaction mixture was then acidified with 10% aq. citric acid soln. when 4N-Boc-aminobenzoic acid precipitated out as a white solid. It was filtered, washed with water (100 mL), dried to get 4N-Boc-aminobenzoic acid (6.8 g, 79%) as a white solid, which was used for next step. Step-2: To a solution of 4N-Boc-aminobenzoic acid (0.85 g, 3.6 mmol) in CH2Cl2 (20 mL) was added EDCI (0.76 g, 3.97 mmol) and HOBT (0.54 g, 3.97 mmol). The reaction was stirred for 15 min and to it was added DIPEA (0.51 g, 3.97 mmol) and Intermediate A (1.0 g, 3.6 mmol). The reaction was further stirred at rt for 24 h and then diluted with EtOAc (100 mL), washed with water (2×25 mL), brine (10 mL) and dried over Na2SO4. Concentration under reduced pressure provided the corresponding amide as a crude solid which was crystallized (CH2Cl2/MeOH) to get the amide (0.4 g, 22%) as a white solid. Step-3: A solution of the amide (0.4 g, 0.8 mmol) in dioxan (10 mL) was cooled to 0° C. and purged with dry HCl for 10 min (reaction mixture turns acidic) and allowed to stir for 16 h. After that the solvents were removed under reduced pressure to get Intermediate B, which was washed with ether (10 mL) to get Intermediate B (0.28 g, 87%) as an orange solid.

reactant | 4-aminobenzoic acid | 36.44 mmol, 5.0 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | BOC anhydride | 54.6 mmol, 11.91 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 1,4-dioxan | O1CCOCC1 | C4H8O2
catalyst | TBAB | 1.82 mmol, 0.58 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
product | Boc-aminobenzoic acid | 6.8 g, 79% | C(=O)(OC(C)(C)C)C=1C(=C(C(=O)O)C=CC1)N | C12H15NO4
